US05608056
To a solution of oxalyl chloride (2.53 ml) and dichloromethane (90 ml) was dropwise added dimethyl sulfoxide (4.31 ml) at -40° C.~-50° C. with stirring and the mixture was stirred at the same temperature for 5 minutes. To the solution was added dropwise a solution of (2S,4R)-1-allyloxycarbonyl-4-t-butyldimethylsiloxy-2-(hydroxymethyl)pyrrolidine (8.70 g) in dichloromethane (45 ml) at -40° C.~-50° C. After 10 minutes with stirring, triethylamine (19.2 ml) was dropwise added to the solution and the mixture was stirred at 0°~10° C. for 30 minutes. The insoluble material was filtered off and the filtrate was washed successively with 1N hydrochloric acid, water, saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo to give a residue of (2S,4R)-1-allyloxycarbonyl-4-t-butyldimethylsiloxy-2-formylpyrrolidine.

reactant | oxalyl chloride | 2.53 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 4.31 ml | CS(=O)C | C2H6OS
reactant | (2S,4R)-1-allyloxycarbonyl-4-t-butyldimethylsiloxy-2-(hydroxymethyl)pyrrolidine | 8.70 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CO | C15H29NO4Si
reactant | triethylamine | 19.2 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
product | (2S,4R)-1-allyloxycarbonyl-4-t-butyldimethylsiloxy-2-formylpyrrolidine | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C=O | C15H27NO4Si
